US07955852B2
Phosphorus oxychloride (0.234 grams, 0.142 ml, 1.52 mmol) was added dropwise to dimethyl formamide (DMF) (4 ml) at room temperature under a nitrogen atmosphere. The solution was stirred for 30 minutes. The 1-(3-propoxy-5,6,7,8-tetrahydro-5,5,8,8,-tetramethylnaphthalen-2-yl)ethanone was added quickly (in one portion) to the orange solution, the reaction solution was heated to 60° C. and was stirred for 12 hours. The obtained dark brown solution was poured into ice water and the aqueous layer was adjusted to pH 7 with solid sodium hydrogen carbonate. Ethyl acetate extraction afforded the crude product, the chloroenal (6-[1-hydroxy,2-chloro-ethenyl]-1,1,4,4-tetramethyl-7-propoxy-1,2,3,4-tetrahydronaphthalene), 0.128 grams, as an orange/brown oil. A solution of the crude chloroenal in dioxane:water (3:2; 5 ml) was added to a solution of NaOH (0.061 grams, 1.52 mmol) in dioxane: H2O (3:2; 20 ml), at 80° C., and the reaction mixture was stirred for 2 hours, to yield an orange reaction solution. The reaction solution was cooled to room temperature, poured into brine and extracted with EtOAc. The organic phase was dried (MgSO4), filtered, and concentrated to afford an orange oil which was purified by radial chromatography (10:1 hexane:ethyl acetate) to give the product 6-ethynyl-1,1,4,4,-tetramethyl-7-propoxy-1,2,3,4-tetrahydronaphthalene (39%) as a yellow oil [1H-NMR (400 MHz, CDCl3): d 7.38(s, 1H, Ar—H), 6.76(s,1H, Ar—H), 3.98 (t, J=6.6 Hz, 2H, OCH3), 3.19 (s, 1H, CH),1.83 (m, 2H, CH2),1.66 (m, 2H, 2CH2),1.26 (s, 6H, 2CH3),1.23 (s, 6H, 2CH3), 0.93 (t, J=7.4 Hz, 3H, CH3)].

reactant | Phosphorus oxychloride | 1.52 mmol, 0.142 ml, 0.234 grams | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-(3-propoxy-5,6,7,8-tetrahydro-5,5,8,8,-tetramethylnaphthalen-2-yl)ethanone | C(CC)OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(C)=O | C19H28O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | chloroenal | OC(=CCl)C=1C=C2C(CCC(C2=CC1OCCC)(C)C)(C)C | C19H27ClO2
reactant | NaOH | 1.52 mmol, 0.061 grams | [OH-].[Na+]
solvent | dioxane water | 5 ml | O1CCOCC1.O
solvent | dioxane H2O | 20 ml | O1CCOCC1.O
solvent | brine | [Cl-].[Na+].O
solvent | dimethyl formamide | 4 ml | CN(C=O)C | C3H7NO
product | 6-ethynyl-1,1,4,4,-tetramethyl-7-propoxy-1,2,3,4-tetrahydronaphthalene | 39% | C(#C)C=1C=C2C(CCC(C2=CC1OCCC)(C)C)(C)C | C19H26O
